US05534518
A mixture of 1.4 grams (0.006 mole) of 2-amino-5-(trimethylsilylethynyl)-6-methylbenzonitrile and 0.9 gram (0.006 mole) of potassium carbonate in 50 mL of methanol was stirred at ambient temperature for one hour. The reaction mixture was then concentrated under reduced pressure to a residue. The residue was taken up in about 75 mL of water, and the solution was extracted with two 200 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 1.0 gram of 2-amino-5-ethynyl-6-methylbenzonitrile. The NMR spectrum was consistent with the proposed structure. This reaction was repeated several times.

reactant | 2-amino-5-(trimethylsilylethynyl)-6-methylbenzonitrile | 0.006 mole, 1.4 grams | NC1=C(C#N)C(=C(C=C1)C#C[Si](C)(C)C)C | C13H16N2Si
reactant | potassium carbonate | 0.006 mole, 0.9 gram | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-amino-5-ethynyl-6-methylbenzonitrile | 1.0 gram | NC1=C(C#N)C(=C(C=C1)C#C)C | C10H8N2
